US04163112
Preparation of O-[3-(2,2-Dimethoxyethylthio)phenyl] N-Methylcarbamate
3-(2,2-Dimethoxyethylthio)phenol (1.80 grams) dissolved in benzene (5 ml) was charged into a glass reaction vessel equipped with a mechanical stirrer. Methyl isocyanate (12 ml) and trimethylamine (2 drops) were then added, and the resulting mixture was stirred at room temperature for a period of about 51/2 hours. The mixture was then allowed to stand overnight and was then stripped of excess methyl isocyanate and a portion of the benzene. The concentrated solution was then added to ether and cooled to -60° C., resulting in a precipitate. The precipitate was recrystallized from ether to yield the desired product O-[3-(2,2-dimethoxyethylthio)phenyl]-0 N-methylcarbamate having a melt point of 46° to 48° C.

reactant | 3-(2,2-Dimethoxyethylthio)phenol | 1.80 grams | COC(CSC=1C=C(C=CC1)O)OC | C10H14O3S
reactant | Methyl isocyanate | 12 ml | CN=C=O | C2H3NO
reactant | ether | CCOCC | C4H10O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
catalyst | trimethylamine | 2 drops | CN(C)C | C3H9N
product | O-[3-(2,2-Dimethoxyethylthio)phenyl] N-Methylcarbamate | CNC(OC1=CC(=CC=C1)SCC(OC)OC)=O | C12H17NO4S
